US05594159
(CF3)2CHCO2H+(CF3)2CHCF2OCH3 +H2O→CF3CH2CF3 +CF3CH=CF2
Activated carbon (25 g, 1/8" (0.32 mm) diameter pellets) and deionized water (5 g) are loaded into a 1" (2.54 cm) OD×12" (30.5 cm) length Inconel™ 600 nickel alloy tube. The reactor temperature is raised to 320° C. and the reactor pressure adjusted to 230 psig (1690 kPa). (CF3)2CHCF2OCH3 (ether A, 9.2 g) and a solution of (CF3)2CHCO2H (2.0 g) in water (6 mL) are independently and continuously fed to the reactor over 3 hours. After the feed flow is stopped, the reactor is flushed with deionized water (10 g) . The reactor effluent is scrubbed to remove HF. The product includes both HFC-236fa and CF3CH=CF2 (HFC-1225zc).

reactant | (CF3)2CHCF2OCH3 | C(C(F)(F)F)(C(F)(F)F)C(F)(F)OC | C5H4F8O
reactant | ether | CCOCC | C4H10O
reactant | (CF3)2CHCO2H | 2.0 g | C(C(F)(F)F)(C(F)(F)F)C(=O)O | C4H2F6O2
solvent | water | 6 mL | O | H2O
catalyst | nickel | [Ni] | Ni
solvent | water | 5 g | O | H2O
product | (CF3)2CHCO2H (CF3)2CHCF2OCH3 H2O | C(C(F)(F)F)(C(F)(F)F)C(=O)O.C(C(F)(F)F)(C(F)(F)F)C(F)(F)OC.O | InChI=1S/C5H4F8O.C4H2F6O2.H2O/c1-14-5(12,13)2(3(6,7)8)4(9,10)11;5-3(6,7)1(2(11)12)4(8,9)10;/h2H,1H3;1H,(H,11,12);1H2
